US05378608
β-Gal (manufactured by Oriental Yeast K.K., 10 mg) was dissolved in 0.1M phosphate buffer (pH 6.0, 2 ml), and thereto was added an o-phenylenedimaleimide solution (manufactured by Aldrich Co., 25 mg/ml in N,N'-dimethylformamide; 100 μl) and the mixture was reacted at 30° C. for 20 minutes. The reaction solution was centrifuged and the supernatant was subjected to Sephadex G-25 column (φ1.5 cm ×30 cm, eluent: 0.1M phosphate buffer, pH 6.0) to give a β-Gal-maleimide fraction.

reactant | β-Gal | 10 mg | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O6
reactant | o-phenylenedimaleimide | 100 μl | C1(=C(C=CC=C1)C=1C(=O)NC(C1)=O)C=1C(=O)NC(C1)=O | C14H8N2O4
solvent | phosphate | 0.1M, 2 ml, pH 6.0 | P(=O)([O-])([O-])[O-]
solvent | phosphate | 0.1M | P(=O)([O-])([O-])[O-]
product | β-Gal maleimide | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO.C1(C=CC(N1)=O)=O | InChI=1S/C6H12O6.C4H3NO2/c7-1-2-3(8)4(9)5(10)6(11)12-2;6-3-1-2-4(7)5-3/h2-11H,1H2;1-2H,(H,5,6,7)/t2-,3+,4+,5-,6-;/m1./s1
